US08030334B2
To a suspension of anhydrous magnesium sulfate (4.5 g, 37.28 mmol) in dichloromethane (37 mL) is added concentrated H2SO4 (516 μl, 9.302 mmol) and the mixture is stirred vigorously for 15 min. 5-Bromo-2-methyl-benzoic acid (2 g, 9.302 mmol) is added, followed by t-butanol (4.39 mL, 46.51 mmol). The flask is capped tightly and stirred at room temperature for 24 h. After adding saturated sodium bicarbonate, the resulting solution is extracted with ethyl acetate. The organic layer is washed with a saturated sodium chloride solution, dried over sodium sulfate, filtered and concentrated. The resulting residue is purified by silica gel flash chromatography (ethyl acetate-heptane, 0:1 to 3:7) to furnish 5-bromo-2-methyl-benzoic acid tert-butyl ester. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.59 (s, 9H), 2.51 (s, 3H), 7.08 (d, J=8.1 Hz, 1H), 7.46 (dd, J=8.3, 2.3 Hz, 1H), 7.92 (d, J=2.3 Hz, 1H)

reactant | magnesium sulfate | 37.28 mmol, 4.5 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | H2SO4 | 9.302 mmol, 516 μl | OS(=O)(=O)O | H2O4S
reactant | 5-Bromo-2-methyl-benzoic acid | 9.302 mmol, 2 g | BrC=1C=CC(=C(C(=O)O)C1)C | C8H7BrO2
reactant | t-butanol | 46.51 mmol, 4.39 mL | C(C)(C)(C)O | C4H10O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 37 mL | ClCCl | CH2Cl2
product | 5-bromo-2-methyl-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=C(C=CC(=C1)Br)C)=O | C12H15BrO2
